US07652051B2
Synthesis of 4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)-phenol
S-methyl N-[3-(trifluoromethyl)phenyl]isothiourea hydroiodide (9.09 g, 25.11 mmol) and 4-hydroxybenzoic acid hydrazide (3.82 g, 25.11 mmol) were suspended in ca. 50 mL of anhydrous pyridine under Ar. The mixture was brought to reflux and refluxed under Ar for 12 hrs. Then the dark-yellow solution was cooled down to ambient temperature and pyridine was removed in vacuo. The resulting reddish-yellow solid was re-dissolved in ca. 50 mL of 4:1 mixture of EtOAc/MeOH, ca. 20 g of silica gel was added and solvent was removed in vacuo. The impregnated silica gel was loaded into 25 g ISCO sample cartridge and the product was purified using ISCO system (solid method, 80 g column, 45 min, 0% to 50% EtOAc gradient in hexane). Solvent was removed in vacuo to give the title product as a white solid (3.83 g). Yield 47.6%.

reactant | S-methyl N-[3-(trifluoromethyl)phenyl]isothiourea hydroiodide | 25.11 mmol, 9.09 g | I.CSC(NC1=CC(=CC=C1)C(F)(F)F)=N
reactant | 4-hydroxybenzoic acid hydrazide | 25.11 mmol, 3.82 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
solvent | pyridine | ca. 50 mL | N1=CC=CC=C1 | C5H5N
product | 4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)-phenol | 3.83 g, Yield 47.6% | FC(C=1C=C(C=CC1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O
